US07935707B2
C) 2-Cyclopropylamino-3-oxo-butyric acid ethyl ester hydrochloride salt
To 6.4 g (23 mmol) of 2-(tert-butoxycarbonyl-cyclopropyl-amino)-3-oxo-butyric acid ethyl ester was added 10 ml of 4M hydrochloric acid in dioxane and the mixture stirred for 2 h. Diethyl ether was then added and 3.5 g (70%) of product was isolated by filtration. MS: 186.0 (MH+).

reactant | 2-(tert-butoxycarbonyl-cyclopropyl-amino)-3-oxo-butyric acid ethyl ester | 23 mmol, 6.4 g | C(C)OC(C(C(C)=O)N(C1CC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | hydrochloric acid | 4M, 10 ml | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Cyclopropylamino-3-oxo-butyric acid ethyl ester hydrochloride salt | 3.5 g, 70% | Cl.C(C)OC(C(C(C)=O)NC1CC1)=O | InChI=1S/C9H15NO3.ClH/c1-3-13-9(12)8(6(2)11)10-7-4-5-7;/h7-8,10H,3-5H2,1-2H3;1H
